US04568677
Ethyl 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate
A solution of carbonyl diimidazole (5.20 g) and 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid (14.00 g) in dichloromethane (200 ml) was stirred at room temperature under nitrogen for 2 hours and then added to a solution of pyridine (2.40 g) and 2,2-dimethyl-1,3-dioxane-4,6-dione (4.56 g) in dichloromethane (200 ml) over 8 minutes. The mixture was stirred at room temperature for 2.5 hours, washed successively with water, ice-cold 2.5M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulphate and evaporated. The residue was dissolved in ethanol (200 ml) and the solution heated under reflux for 2.75 hours and evaporated. The residue was triturated with diethyl ether and the resulting solid collected washed with diethyl ether and dried to give the title compound (9.0 g), m.p. 99°-102° C.

reactant | carbonyl diimidazole | 5.20 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetic acid | 14.00 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(=O)O)C(=O)OCC | C20H21Cl2NO7
reactant | pyridine | 2.40 g | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 4.56 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate | 9.0 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CC(=O)OCC)=O)C(=O)OCC | C24H27Cl2NO8
